US07129367B2
(2) Preparation of 1-bromo-2,2-diphenyl-1-methylcyclopropane
Under a nitrogen atmosphere, 1,1-dibromo-2,2-diphenylcyclopropane(10.6 g, 30.0 mmol) obtained in Example 1-(1) and THF (tetrahydrofuran, 120 ml) were placed in a reaction flask and cooled to −70° C. To the mixture, n-butyllithium in hexane (20 ml, 1.57M, 31.4 mmol) was added gradually, and the mixture was stirred at the same temperature for 30 minutes. Methyl iodide (2.1 ml, 33 mmol) was added to the reaction mixture and the resulting mixture was stirred for 30 minutes and then warmed to room temperature. Then, water was added to the reaction mixture and the organic layer was extracted with toluene. The toluene extract was dried over anhydrous magnesium sulfate and then the solvent was removed under reduced pressure. The residue was recrystallized from methanol to give the title compound (7.28 g, 89%) as white crystal.

reactant | 1,1-dibromo-2,2-diphenylcyclopropane | 30.0 mmol, 10.6 g | BrC1(C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)Br | C15H12Br2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 31.4 mmol, 1.57M, 20 ml | CCCCCC | C6H14
reactant | Methyl iodide | 33 mmol, 2.1 ml | CI | CH3I
solvent | water | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 1-bromo-2,2-diphenyl-1-methylcyclopropane | 7.28 g, 89% | BrC1(C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C16H15Br
